US07446117B2
1-Ethyl-1H-1,2,4-triazole-5-carbaldehyde
To a solution of 1-ethyl-1H-1,2,4-triazole (9.9 g, 0.10 mol) and N,N,N′,N′-tetramethylethylenediamine (15 mL) in THF (60 mL) at −78° C. was added n-butyllithium (64 mL of a 1.6M solution in hexanes, 0.10 mol). After stirring for 2 hours, DMF (8.7 mL, 0.11 mol) was added, the reaction allowed to warm to room temperature and stirred for 14 hours before being poured into saturated aqueous sodium bicarbonate solution (300 mL). The mixture was extracted with dichloromethane (3×150 mL) and the combined organics dried over sodium sulfate, filtered and concentrated to give the title compound (>12 g) which also contained unreacted starting material 1H-NMR (CDCl3) δ 1.48 (3H, t, J=7 Hz), 4.63 (2H, q, 7 Hz), 8.03 (1H, s), 10.04 (s, 1H).

reactant | 1-ethyl-1H-1,2,4-triazole | 0.10 mol, 9.9 g | C(C)N1N=CN=C1 | C4H7N3
reactant | N,N,N′,N′-tetramethylethylenediamine | 15 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 0.11 mol, 8.7 mL | CN(C)C=O | C3H7NO
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-1H-1,2,4-triazole-5-carbaldehyde | >12 g | C(C)N1N=CN=C1C=O | C5H7N3O
